US07393868B2
Add 1,8-diazabicyclo [5.4.0] undec-7-ene (DBU) drop wise (0.51 mL, 3.6 mmol) to a suspension of 6-amino-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-2-carboxylic acid methyl ester (208 mg 0.48 mmol) in dichloromethane (9 ml) at 0° C., followed by drop wise addition of isopropylsulfonyl chloride (0.21 mL, 0.9 mmol) and stir the reaction at room temperature overnight. Remove solvent under reduced pressure. Purify with flash chromatography (Silica gel-hexane/EtOAc). Concentrate the desired fractions to provide 6-(propane-2-sulfonylamino)-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-2-carboxylic acid methyl ester (50 mg). MS (m/e): 535.1(M−1).

reactant | 1,8-diazabicyclo [5.4.0] undec-7-ene | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 6-amino-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-2-carboxylic acid methyl ester | 0.48 mmol, 208 mg | COC(=O)C=1C(=C(C=CC1)N)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C | C21H22N2O4S2
reactant | isopropylsulfonyl chloride | 0.9 mmol, 0.21 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
product | 6-(propane-2-sulfonylamino)-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-2-carboxylic acid methyl ester | 50 mg | COC(=O)C=1C(=C(C=CC1)NS(=O)(=O)C(C)C)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C | C24H28N2O6S3
